US07544806B2
(1-Benzyl-piperidine-4-yl)-(4-fluoro-phenyl)-amine
A solution of 4-fluoroaniline (32.7 g), N-benzylpiperidinone (106.0 g) and acetic acid (106.0 g) in 1,2-dichlorethane (1200 ml) is brought to a temperature below 15° C. To the stirred solution is added slowly a suspension of acetic acid (495.0 g) and sodium borohydride (31.2 g). After 2 h stirring at 15° C. and another 2 h at r.t., the solvent is removed in vacuo. Ethyl acetate (500 ml) and water (700 ml) are added under stirring and the resulting mixture is neutralised with sodium carbonate (ca. 250 g). The organic phase is separated, washed with a 2 M NaHCO3 solution (100 ml) and water (100 ml) and dried with sodium sulphate. 53.8 g product is obtained as orange crystals after removal of the solvent and recrystallisation from ether/petroleum ether. Mp. 90-92° C.

reactant | 4-fluoroaniline | 32.7 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | N-benzylpiperidinone | 106.0 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | acetic acid | 106.0 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 495.0 g | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 31.2 g | [BH4-].[Na+]
solvent | 1,2-dichlorethane | 1200 ml | ClCCCl | C2H4Cl2
product | (1-Benzyl-piperidine-4-yl)-(4-fluoro-phenyl)-amine | 53.8 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=C1)F | C18H21FN2
